US06465507B2
1-(5-Bromo-4-methyl-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one
5-Bromo-4-methyl-1,3-dihydro-indol-2-one was condensed with 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde to give the title compound.

reactant | 5-Bromo-4-methyl-1,3-dihydro-indol-2-one | BrC=1C(=C2CC(NC2=CC1)=O)C | C9H8BrNO
reactant | 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
product | 1-(5-Bromo-4-methyl-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one | BrC=1C(=C2C(C(NC2=CC1)=O)=CC1=C2C(=CN1)C(OCC2)=O)C | C17H13BrN2O3
